US03930837
was prepared by the procedure of Example II except that the 3-methyl-5-nitro-isoquinoline of that example was replaced by 1-chloro-isoquinoline to yield 1-chloro-isoquinoline hydrochloride melting over the range 78° - 84°C.

reactant | 3-methyl-5-nitro-isoquinoline | CC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C10H8N2O2
reactant | 1-chloro-isoquinoline | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
product | 1-chloro-isoquinoline hydrochloride | Cl.ClC1=NC=CC2=CC=CC=C12 | InChI=1S/C9H6ClN.ClH/c10-9-8-4-2-1-3-7(8)5-6-11-9;/h1-6H;1H
